US08802661B2
To a solution of (1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-benzyl 9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (7.1 g, 12.98 mmol) in dichloromethane (100 mL) was added PCC (4.20 g, 19.48 mmol). After stirring for five minutes, the mixture turned a deep crimson color. The mixture was further stirred for 5.5 h. The mixture was filtered through a pad of celite and silica gel which was washed with dichloromethane and then a 1:1 mixture of ethyl acetate:hexanes. The filtrate was concentrated under reduced pressure to give (1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-benzyl 5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (6.92 g, 12.7 mmol, 98% yield) as a white foam. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.38-7.28 (m, 5H), 5.17-5.06 (m, 2H), 4.72 (d, J=1.83 Hz, 1H), 4.59 (s, 1H), 3.01 (td, J=10.99, 4.88 Hz, 1H), 2.51-2.43 (m, 1H), 2.42-2.34 (m, 1H), 2.28 (dt, J=12.59, 3.17 Hz, 1H), 2.21 (td, J=12.28, 3.51 Hz, 1H), 1.94-1.82 (m, 3H), 1.67 (s, 3H), 1.05 (s, 3H), 1.01 (s, 3H), 1.73-0.95 (m, 17H), 0.94 (s, 3H), 0.89 (s, 3H), 0.78 (s, 3H).

reactant | (1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-benzyl 9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 12.98 mmol, 7.1 g | O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)OCC5=CC=CC=C5)C)C)(C)C | C37H54O3
reactant | PCC | 19.48 mmol, 4.20 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-benzyl 5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 12.7 mmol, 6.92 g, 98% yield | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CCC(C([C@@H]4CC[C@@]12C)(C)C)=O)C)[C@@H](CC3)C(=C)C)C(=O)OCC3=CC=CC=C3 | C37H52O3
